Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall and Left sided weakness 
 
Major Surgical or Invasive Procedure:
Mechanical thrombectomy of middle cerebral artery

 
History of Present Illness:
Mr. ___ is a ___ left-handed man with a past medical 
history of atrial fibrillation not on anticoagulation, anxiety, 
depression status post ECT who presents as a transfer from ___ 
___ due to left-sided weakness.

Patient has been a resident at ___ inpatient ___ 
___ for depression with SI and has been receiving ECT.

Last known well was 9 ___ on ___.  This morning at 8 am, he was 
noted to be uncoordinated by nursing but it was initially 
attributed to ECT recently performed on ___. Patient reported 
feeling funny on his left side. Later at 11 AM, patient had 
increased weakness and a fall.  His left arm and leg were noted 
to be weak on neuro exam. 

He was transferred to ___ where ___ SS was 6 
initially.  On CT head, he had ASPECTS of 6. CTA showed M2 
cutoff. He was transferred to ___ for possible thrombectomy.  
 
Per wife, his cardiologist had cleared him for ECT despite 
having occasional atrial fibrillation. He is not on 
anticoagulation but he said they were considering starting AC at 
some point.  

 
Past Medical History:
Atrial fibrillation not on anticoagulation
Bilateral hip replacements
Knee replacement        
 
Social History:
___
Family History:
2 brothers with late in life bipolar disease 
 
Physical Exam:
Physical exam on admission:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, hospital, ___. 
Inattentive to interview; required repeated prompting. Language
is slow with short slow sentence. with intact repetition and
comprehension.  There were no paraphasic errors. Able to name
both high and low frequency objects on stroke card.  Able to 
read
without difficulty. Mild dysarthria. Appears possibly abulic.
Able to follow both midline and appendicular commands. Some L
sided neglect. ___ have mild eyelid apraxia. Prefers to have 
eyes
closed or b/l partial ptosis at times; unclear if just tired. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. VFF to confrontation though very slow to report
V: Facial sensation intact to light touch, cold
VII: left lower facial weakness, decreased activation, 
asymmetric
smile
VIII: Hearing intact to voice
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.

-Motor: Normal bulk and tone throughout. L drifts down to bed. 
No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    4    5    4+   4    4    4    5    4+  4    5    4+
R    5-   5    5    5    5    5    5    5   5    5    5

-Sensory: No deficits to light touch or cold throughout.
Decreased vibratory sense in b/l great toes and medial malleolus
b/l. Extinction to DSS in LUE, not face or leg. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     0
R   2     2      2      2     0 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. No dysmetria on FNF or HKS
bilaterally.

-Gait: Unable to assess. Pt was post-thrombectomy

Physical exam on discharge:
As above, but with improvement in gait, mild pronator drift on 
left hand, mild drift of left foot down but not to bed, motor 
exam is still limited by shoulder pain that is chronic in 
nature.  Visual neglect of left side and sensory neglect of left 
side have improved.  Still with weakness on the left greater 
than right on gross motor and fine motor exam.
 
Pertinent Results:
___ 06:05AM BLOOD WBC-6.3 RBC-4.04* Hgb-13.0* Hct-39.2* 
MCV-97 MCH-32.2* MCHC-33.2 RDW-12.1 RDWSD-43.7 Plt ___
___ 02:24PM BLOOD Neuts-75.5* Lymphs-15.4* Monos-7.9 
Eos-0.3* Baso-0.6 Im ___ AbsNeut-7.32* AbsLymp-1.50 
AbsMono-0.77 AbsEos-0.03* AbsBaso-0.06
___ 05:32AM BLOOD ___ PTT-25.4 ___
___ 06:05AM BLOOD Glucose-91 UreaN-21* Creat-0.8 Na-144 
K-4.2 Cl-107 HCO3-27 AnGap-10
___ 06:05AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.8
___ 12:15AM BLOOD %HbA1c-5.3 eAG-105
___ 12:15AM BLOOD Triglyc-75 HDL-44 CHOL/HD-3.8 LDLcalc-107
___ 12:15AM BLOOD TSH-2.5
___ 02:24PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

Thrombectomy - ___ - IMPRESSION:  TICI 3 result for a right 
middle cerebral artery mechanical thrombectomy. 

MRI ___ - Late acute infarct involving predominantly the 
inferior
division of the right MCA distribution, with foci of associated
hemorrhage. 

TTE - ___ - IMPRESSION: Normal study. Normal biventricular 
cavity
sizes and regional/global biventricular
systolic function. No pathologic flow identified. High normal
estimated pulmonary artery systolic
pressure. No definite structural cardiac source of embolism
identified.

CTA Perfusion: ___ - Extremely limited study secondary to
extensive motion artifact however in the 
context of these limitations a acute infarction is seen 
involving
the right insular cortex and MCA distribution with possible
extension to the supra  marginal gyrus.  No evidence of acute
intracranial hemorrhage. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old left handed male with a history of 
atrial fibrillation not on anticoagulation, anxiety and 
depression, who was admitted to the Neurology stroke service 
from inpatient ___ psychiatric service (where he was 
receiving ECT) and developed with left sided weakness and 
dysarthria and was found to have right MCA infarct.

#Acute ischemic infarct, R MCA infarct
He was found to have a right M2 occlusion and underwent 
thrombectomy ___. MRI showed small foci of hemorrhages in the 
inferior division of the right MCA infarct on MRI w/o contrast. 
Given the small area of hemorrhage he was started on aspirin 81 
mg daily. Etiology was felt to be atrial fibrillation not on 
anticoagulation. Risk factor evaluation included hemoglobin A1c 
screening which was 5.3% LDL which was 107, and blood TSH was 
2.5. He received a TTE, which showed no valvular source of 
thrombus or thrombus in the heart. He was monitored on telemetry 
during the admission and had atrial fibrillation with controlled 
rates as well as sinus bradycardia at times while sleeping. His 
exam was initially remarkable for left-sided weakness and 
neglect and in both visual and sensory modalities. These 
symptoms continue to improve and on day of discharge he had mild 
left pronator drift and left leg raise drift on exam. He will 
need repeat head CT on ___. If the imaging is stable and no 
further hemorrhage, he should start apixiban 5 mg twice a day 
given atrial fibrillation. Aspirin 81 mg should be stopped if 
apixiban is started. 

#Severe depression, prior suicidal ideation
Psychiatry saw the patient while he was here, and they 
recommended continuation of aripiprazole 10 mg PO daily and 
Escitalopram 20 mg PO daily. Plan is for him to be transferred 
to ___ for ongoing optimization.

Transitional issues:
====================
- Repeat head CT on ___, and start apixaban 5 mg BID 
afterwards if stable. Stop aspirin 81 mg daily if starting 
apixiban.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (X) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
() Yes - (X) No. If not, why not? Patient underwent 
thrombectomy, aspirin started ___ due to MRI showing small foci 
of hemorrhages
4. LDL documented? (X) Yes (LDL = 107 ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (X) Yes - () No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (X) No [reason 
(X) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (X) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (X) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (X) No -will start 
anticoagulation on ___ due to risk of bleeding
========================================
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. ARIPiprazole Extended Release 10 mg IM DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Apixaban 5 mg PO BID Atrial Fibrillation 
HOLD until repeat CT head after ___, to evaluate hemorrhagic 
conversion of infarcts.  
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Aspirin EC 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Heparin 5000 UNIT SC BID decreased mobuility and dvt 
prevention   
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Senna 8.6 mg PO DAILY  
8.  ARIPiprazole Extended Release 10 mg IM DAILY  
9.  Escitalopram Oxalate 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke status post mechanical thrombectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of left sided weakness and 
slurred speech resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. 

You underwent a procedure to remove the clot from your brain 
called a thrombectomy. After the procedure your symptoms began 
to improve. 

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

Atrial fibrillation, hyperlipidemia,

We are changing your medications as follows:
Starting aspirin 81 mg once daily
Starting atorvastatin 40 mg once daily
Start apixaban 5 mg twice daily AFTER you have a repeat head CT 
after ___

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
======================================
 
Followup Instructions:
___